US07414063B2
[2-(1-chloro-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester
Powdered 1-chloro-isoquinoline-5-sulfonyl chloride (10.0 g, 38.2 mmol) is added in portions to a stirred solution of (2-amino-ethyl)-carbamic acid tert-butyl ester (7.33 g, 45.8 mmol) and NEt3 (10.7 mL, 76.4 mmol) in anhydrous CH2Cl2 (200 mL) at 0° C. under nitrogen. The resultant mixture is allowed to stir at ambient temperature for 4 hours. The mixture is concentrated and chromatographed on silica gel (gradient 0-5% CH3OH in CH2Cl2) to give 13.8 g (35.8 mmol, 94% yield) of the title compound as foam. ESIMS: m/z 386 [(M+H)+, 35Cl], 388 [(M+H)+, 37Cl]. Analysis for C16H20ClN3O4S: calcd: C, 49.80; H, 5.22; N, 10.89; found: C, 49.70; H, 5.22; N, 10.72.

reactant | 1-chloro-isoquinoline-5-sulfonyl chloride | 38.2 mmol, 10.0 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H5Cl2NO2S
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 45.8 mmol, 7.33 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | NEt3 | 76.4 mmol, 10.7 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | [2-(1-chloro-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 35.8 mmol, 13.8 g, 94% yield | C(C)(C)(C)OC(NCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)Cl)=O | C16H20ClN3O4S
